US04839355
To a mixture of 100 g sodium (30% dispersion in toluene) and 400 ml dimethoxyethane (DME) cooled in an ice-salt bath and under nitrogen was added a solution of 121 g trimethyltin chloride in 50 ml DME over a 2 hour period while keeping the temperature below 5° C. The mixture was stirred at 0°-5° C. for 2.5 hours and then 70 g 4-chloro-2,6-dimethylpyridine in 50 ml DME was added over a 1.5 hour period while keeping the temperature at 0°-10° C. The reaction mixture was stirred at the latter temperature for 1 hour and then allowed to stand at room temperature overnight. The mixture was filtered and concentrated, and the residue treated with ether and again filtered and concentrated. The resulting orange liquid was distilled, collecting the material boiling at 130° C. (20 mm.) to give 80 g 2,6-dimethyl-4-(trimethylstannyl)pyridine.

reactant | sodium | 100 g | [Na] | Na
reactant | trimethyltin chloride | 121 g | C[Sn](C)(C)Cl
reactant | 4-chloro-2,6-dimethylpyridine | 70 g | ClC1=CC(=NC(=C1)C)C | C7H8ClN
solvent | DME | 50 ml | C(OC)COC | C4H10O2
solvent | DME | 50 ml | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 400 ml | C(OC)COC | C4H10O2
product | 2,6-dimethyl-4-(trimethylstannyl)pyridine | 80 g | CC1=NC(=CC(=C1)[Sn](C)(C)C)C | InChI=1S/C7H8N.3CH3.Sn/c1-6-4-3-5-7(2)8-6;;;;/h4-5H,1-2H3;3*1H3;
